US08486939B2
A solution of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine (0.544 g, 1 mmol) in 15 mL DMF was treated with of NaH and then a slight excess iodomethane was added. After 10 min, the reaction was neutralized with acetic acid and diluted with water. After the pH was made slightly alkaline with aq. NH3, the precipitate was collected and dried. Chromatography on alumina eluting with CH2Cl2/EtOAc (9:1) gave 0.26 g (53% yield) of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine: mp (MeOH) 200-201° C.; 1H NMR (DMSO-d6) δ 8.67 (d, J=2.2 Hz, 1H), 8.55 (d, J=4.1 Hz, 1H), 7.89 (ddd, J=8.1, 2.6, 1.5 Hz, 1H), 7.70-7.29 (m, 3H), 6.90 (d, J=8.0 Hz, 1H), 3.94 (s, 3H), 3.84-3.61 (m, 8H), 3.55 (s, 3H); Anal. Calcd. for C22H22F2N8O2: C, 56.4; H, 4.7; N, 23.9. Found: C, 56.5; H, 4.75; N, 24.5%.

reactant | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine | 1 mmol, 0.544 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC=1C=NC=CC1)C=CC=C2OC)F | C21H20F2N8O2
reactant | NaH | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | NH3 | N | H3N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-N-(3-pyridinyl)-1,3,5-triazin-2-amine | 0.26 g, 53% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C=1C=NC=CC1)C)C=CC=C2OC)F | C22H22F2N8O2
